US07807709B2
B. (3S*,4S*)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound is prepared in a similar manner as described for Example 9/reaction step E, from (3S*,4S*)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (10.4 g, 58.9 mmol) and Dess-Martin periodinane (25.0 g, 58.9 mmol) in CH2Cl2 (150 mL), slowly wet CH2Cl2 (1.17 mL of water in 150 mL of CH2Cl2) as colorless oil. MS: 244.2 [M+H-Boc]+. tR (HPLC, C18 column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 6.46 min.

reactant | (3S*,4S*)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 58.9 mmol, 10.4 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CO)C(O[SiH2]C(C)(C)C)(C)C | C17H35NO4Si
reactant | Dess-Martin periodinane | 58.9 mmol, 25.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
reactant | CH3CN H2O | CC#N.O
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.17 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
product | (3S*,4S*)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C=O)C(O[SiH2]C(C)(C)C)(C)C | C17H33NO4Si
